US07326715B2
2-[2-Methanesulfonyl-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyrimidin-4-ylamino]-ethanol (0.68 g) was dissolved in DMSO (10 ml) and sodium cyanide (0.17 g) was added. The mixture was stirred at RT for 48 hours. Mixture was partitioned between ethyl acetate (100 ml) and water (100 ml). Organics were dried and evaporated then flash chromatographed over silica (DCM-2% methanol in DCM) to afford 420 mg of 4-(2-Hydroxy-ethylamino)-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile as a white solid.

reactant | 2-[2-Methanesulfonyl-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyrimidin-4-ylamino]-ethanol | 0.68 g | CS(=O)(=O)C1=NC(=CC(=N1)NCCO)C1=CC(=C(C=C1)OC)C(F)(F)F | C15H16F3N3O4S
reactant | sodium cyanide | 0.17 g | [C-]#N.[Na+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 4-(2-Hydroxy-ethylamino)-6-(4-methoxy-3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 420 mg | OCCNC1=NC(=NC(=C1)C1=CC(=C(C=C1)OC)C(F)(F)F)C#N | C15H13F3N4O2
